US06509500B2
Continuous Preparation of 2-[2,4-bis(1,1-dimethylpropyl)phenoxy]-N-[(3,5-dichloro-4-ethyl-2-hydroxyphenyl)]Butanamide (1), With pH Control
A heel was created via batch mode in Reactor 1 by first adding of 16 g (0.16 moles) of potassium bicarbonate, and 55 g of deionized water, and stirring until all of the solid had dissolved. Then, 24 g of isopropanol, 30 g (0.146 moles) of 3,5-dichloro-4-ethyl-2-hydroxyaniline (the amine), 120 g of heptane, and 20 g of toluene were added. The contents of the reactor system were heated to approximately 60° C. while agitating at 400 rpm. To this 2-phase mixture, 57.5 g (0.169 moles) of 2-[2,4-bis(1,1-dimethylpropyl)phenoxy]butyryl chloride (the acid chloride) were added over approximately 45 minutes. The analysis of the upper phase of the mixture was 94% product on a solvent free-basis. The continuous feeds were started at the following rates to provide six hours of residence time: 0.51 g/min 1.36 mmoles/min) of a 55 wt % solution of amine in isopropanol; 1.82 g/min (1.48 mmoles/min) of a solution of the acid chloride solution (27.5 wt % in a mixture of 6 parts of heptane and 1 part of toluene. A 22.5 wt % solution of potassium bicarbonate in water was added to maintain the pH between about 2 and 4. The flowrate of the potassium bicarbonate solution ranged from 0.64-0.68 g/min (1.37-1.46 mmoles/minute).

reactant | potassium bicarbonate | 0.16 moles, 16 g | C([O-])(O)=O.[K+]
reactant | 3,5-dichloro-4-ethyl-2-hydroxyaniline | 0.146 moles, 30 g | ClC=1C(=C(N)C=C(C1CC)Cl)O | C8H9Cl2NO
reactant | 2-[2,4-bis(1,1-dimethylpropyl)phenoxy]butyryl chloride | 0.169 moles, 57.5 g | CC(CC)(C)C1=C(OC(C(=O)Cl)CC)C=CC(=C1)C(CC)(C)C | C20H31ClO2
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | water | O | H2O
solvent | isopropanol | 24 g | C(C)(C)O | C3H8O
solvent | water | 55 g | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | heptane | CCCCCCC | C7H16
solvent | toluene | 20 g | C1(=CC=CC=C1)C | C7H8
solvent | heptane | 120 g | CCCCCCC | C7H16
product | 2-[2,4-bis(1,1-dimethylpropyl)phenoxy]-N-[(3,5-dichloro-4-ethyl-2-hydroxyphenyl)]Butanamide | CC(CC)(C)C1=C(OC(C(=O)NC2=C(C(=C(C(=C2)Cl)CC)Cl)O)CC)C=CC(=C1)C(CC)(C)C | C28H39Cl2NO3
